US07429605B2
iii) 6-(4-Fluoro-phenyl)-2-methyl-3-[4-(4-[1,2,3]triazol-1-yl-butyl)-phenoxymethyl]-pyridine
36 mg (0.89 mmol) of 60% sodium hydride were added to at 0° C. to a solution of 185 mg (0.85 mmol) 4-(4-[1,2,3]triazol-1-yl-butyl)-phenol in 8.0 ml N,N-dimethylformamide and stirred for 30 min. at 0° C. 200 mg (0.85 mmol) 3-chloromethyl-6-(4-fluoro-phenyl)-2-methyl-pyridine were given to the reaction mixture and stirring continued at room temperature (r.t.) overnight. After addition of 16 ml water the mixture was stirred for 1 h, the formed precipitate isolated by filtration, washed with water, water/methanol 1:1, and ether. The residue was dried at 40° C. in vacuum to give 295 mg (83%) of the title compound as white powder.

reactant | sodium hydride | 0.89 mmol, 36 mg | [H-].[Na+]
reactant | 4-(4-[1,2,3]triazol-1-yl-butyl)-phenol | 0.85 mmol, 185 mg | N1(N=NC=C1)CCCCC1=CC=C(C=C1)O | C12H15N3O
reactant | 3-chloromethyl-6-(4-fluoro-phenyl)-2-methyl-pyridine | 0.85 mmol, 200 mg | ClCC=1C(=NC(=CC1)C1=CC=C(C=C1)F)C | C13H11ClFN
reactant | water | 16 ml | O | H2O
solvent | N,N-dimethylformamide | 8.0 ml | CN(C=O)C | C3H7NO
product | 6-(4-Fluoro-phenyl)-2-methyl-3-[4-(4-[1,2,3]triazol-1-yl-butyl)-phenoxymethyl]-pyridine | 295 mg, 83% | FC1=CC=C(C=C1)C1=CC=C(C(=N1)C)COC1=CC=C(C=C1)CCCCN1N=NC=C1 | C25H25FN4O
